US20010041700A1
(b) N-(Cyano-1-methyl-piperidin-4-yl)-2-cyclohexylmethyl-4-morpholin-4-yl-4-oxo-butyramide
(R)-2-Cyclohexylmethyl-4-morpholin-4-yl-4-oxo-butyric acid (0.20 g, 0.71 mmol) (see Example 1-part a and b) was dissolved in 5 mL of DMF and cooled to 0° C. by an ice-water bath. EDC (0.18 g, 0.92 mmol) and 1-hydroxybenzotriazole (0.12 g, 0.92 mmol) were added and stirring, under argon, continued for 25 min. Then 4-amino-4-cyano-1-methylpiperidine (0.098 g, of the mixture of aminonitrile:cyanohydrin:ketone) was dissolved in 1 mL of DMF and added to the -solution of the active ester. The resulting mixture was stirred at ambient temperature for 4 h. The volatiles were removed in vacuo and the resulting residue was dissolved in 100 mL of EtOAc and washed sequentially with 2×100 mL of saturated sodium bicarbonate and 1×100 mL of brine. The organic layer was dried over MgSO4, filtered, and concentrated to a thick oil. The oil was purified by column chromatography on SiO2 using as eluent 5% MeOH in CH2Cl2 to give the title compound as a clear oil (0.005 g): 1H NMR (CDCl3) 6.64 (1H, m), 3.73-3.37 (8H, m), 2.95-2.85 (1H, m), 2.75-2.55 (2H, m), 2.5-2.37 (2H, m), 2.34-2.25 (3H, m), 1.98-1.82 (2H, m), 1.80-1.58 (6H, m), 1.32-1.10 (8H, m), 0.95-0.78 (3H,m). MS: m/z=405 M+1.

reactant | (R)-2-Cyclohexylmethyl-4-morpholin-4-yl-4-oxo-butyric acid | 0.71 mmol, 0.20 g | C1(CCCCC1)C[C@@H](C(=O)O)CC(=O)N1CCOCC1 | C15H25NO4
reactant | EDC | 0.92 mmol, 0.18 g
reactant | 1-hydroxybenzotriazole | 0.92 mmol, 0.12 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-amino-4-cyano-1-methylpiperidine | NC1(CCN(CC1)C)C#N | C7H13N3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-(Cyano-1-methyl-piperidin-4-yl)-2-cyclohexylmethyl-4-morpholin-4-yl-4-oxo-butyramide | 0.005 g | C(#N)C1N(CCC(C1)NC(C(CC(=O)N1CCOCC1)CC1CCCCC1)=O)C | C22H36N4O3
